T1 (net273 net368 net368 0) pfet L=0.75E-6 W=3.82E-6
R2 ( 0 net6)  R=2.6E0
T3 ( net6 net6 0 0)  nfet  L=6.48E-6 W=7.78E-6
T4 ( net128 net6 0 0)  nfet  L=6.48E-6 W=7.78E-6
T5 (net129 net123 net123 0) pfet L=1.25E-6 W=8.08E-6
T6 (net364 net352 net352 0) nfet L=1.44E-6 W=3.41E-6
T7 ( net89 net89 0 0)  nfet  L=7.46E-6 W=1.61E-6
T8 ( net18 net89 0 0)  nfet  L=7.46E-6 W=1.61E-6
R9 ( net18 net264)  R=2.4E0
T10 (net234 vdd! vdd! 0) pfet L=2.10E-6 W=3.69E-6
C11 (net152 net301) C=6.4E-5
T12 (net30 net169 net169 0) pfet L=0.93E-6 W=4.42E-6
R13 ( net185 net341)  R=7.7E2
T14 ( net341 net341 vdd! vdd!)  pfet  L=4.86E-6 W=4.03E-6
T15 ( net124 net341 vdd! vdd!)  pfet  L=4.86E-6 W=4.03E-6
T16 (net180 net13 net13 0) nfet L=8.63E-6 W=7.06E-6
T17 ( net285 net285 0 0)  nfet  L=6.47E-6 W=0.75E-6
T18 ( net324 net285 0 0)  nfet  L=6.47E-6 W=0.75E-6
R19 ( net324 net254)  R=3.8E0
T20 (net64 net369 net369 0) nfet L=1.67E-6 W=1.54E-6
R21 ( net136 net51)  R=0.1E2
T22 ( net51 net51 net57 vdd!)  pfet  L=5.14E-6 W=3.59E-6
T23 ( net57 net64 vdd! vdd!)  pfet  L=5.14E-6 W=3.59E-6
T24 ( net64 net64 vdd! vdd!)  pfet  L=5.14E-6 W=3.59E-6
T25 ( net35 net51 net64 vdd!)  pfet  L=5.14E-6 W=3.59E-6
T26 (net365 net1 net1 0) nfet L=3.89E-6 W=5.66E-6
T27 ( net87 net87 0 0)  nfet  L=7.32E-6 W=8.17E-6
T28 ( net300 net87 0 0)  nfet  L=7.32E-6 W=8.17E-6
R29 ( net300 net306)  R=6.2E3
T30 (net267 net175 net175 0) pfet L=0.63E-6 W=1.12E-6
T31 (net77 net377 net377 0) pfet L=8.60E-6 W=7.73E-6
R32 ( net252 net355)  R=5.1E6
T33 ( net355 net232 0 0)  nfet  L=0.43E-6 W=0.22E-6
T34 ( net8 net232 0 0)  nfet  L=0.43E-6 W=0.22E-6
T35 ( vdd! net355 net232 0)  nfet  L=0.43E-6 W=0.22E-6
T36 (net299 net207 net207 0) pfet L=1.22E-6 W=4.44E-6
T37 (net343 net305 net305 0) nfet L=1.17E-6 W=6.23E-6
R38 ( net91 net330)  R=7.0E1
T39 ( net330 net27 0 0)  nfet  L=6.66E-6 W=6.58E-6
T40 ( net2 net27 0 0)  nfet  L=6.66E-6 W=6.58E-6
T41 ( vdd! net330 net27 0)  nfet  L=6.66E-6 W=6.58E-6
T42 (net263 0 0 0) pfet L=1.15E-6 W=1.60E-6
R43 ( net251 net215)  R=5.8E4
T44 ( net215 net343 vdd! vdd!)  pfet  L=8.58E-6 W=9.80E-6
T45 ( net8 net343 vdd! vdd!)  pfet  L=8.58E-6 W=9.80E-6
T46 ( net30 net215 net8 vdd!)  pfet  L=8.58E-6 W=9.80E-6
R47 (0 net257) R=0.6E4
R48 (net307 net347) R=6.9E2
R49 (net203 vdd!) R=4.2E2
T50 (net155 net256 net256 0) nfet L=9.45E-6 W=6.61E-6
T51 (net235 net285 net285 0) nfet L=6.60E-6 W=1.15E-6
R52 ( vdd! net74)  R=4.1E1
T53 ( net74 net368 0 0)  nfet  L=1.68E-6 W=8.95E-6
T54 ( net257 net368 0 0)  nfet  L=1.68E-6 W=8.95E-6
T55 ( net10 net74 net257 0)  nfet  L=1.68E-6 W=8.95E-6
C56 (net83 net7) C=0.6E-5
T57 (net285 net328 net328 0) pfet L=1.38E-6 W=3.33E-6
T58 ( 0 0 vdd! vdd!)  pfet  L=6.72E-6 W=7.61E-6
T59 ( net133 0 vdd! vdd!)  pfet  L=6.72E-6 W=7.61E-6
R60 ( net133 net149)  R=0.2E3
C61 (net87 net236) C=5.5E-12
T62 (net280 net293 net293 0) pfet L=3.21E-6 W=8.17E-6
T63 (net165 net317 net317 0) pfet L=4.73E-6 W=2.20E-6
T64 (net86 net267 net267 0) pfet L=7.09E-6 W=5.96E-6
T65 (net29 net128 net128 0) pfet L=8.28E-6 W=9.44E-6
T66 ( net72 net72 vdd! vdd!)  pfet  L=2.70E-6 W=6.44E-6
T67 ( net260 net72 vdd! vdd!)  pfet  L=2.70E-6 W=6.44E-6
R68 ( net260 net307)  R=5.1E2
T69 (net46 net274 net274 0) nfet L=8.51E-6 W=5.69E-6
R70 ( net212 net384)  R=7.7E3
T71 ( net384 net384 vdd! vdd!)  pfet  L=6.61E-6 W=5.25E-6
T72 ( net266 net384 vdd! vdd!)  pfet  L=6.61E-6 W=5.25E-6
T73 (net208 net59 net59 0) pfet L=5.37E-6 W=9.98E-6
R74 ( net110 net255)  R=0.8E6
T75 ( net255 net293 0 0)  nfet  L=1.86E-6 W=1.41E-6
T76 ( net171 net293 0 0)  nfet  L=1.86E-6 W=1.41E-6
T77 ( vdd! net255 net293 0)  nfet  L=1.86E-6 W=1.41E-6
T78 (net362 net102 net102 0) nfet L=9.57E-6 W=4.13E-6
R79 ( net376 net387)  R=9.9E0
T80 ( net387 net387 net31 vdd!)  pfet  L=9.52E-6 W=5.14E-6
T81 ( net31 net268 vdd! vdd!)  pfet  L=9.52E-6 W=5.14E-6
T82 ( net268 net268 vdd! vdd!)  pfet  L=9.52E-6 W=5.14E-6
T83 ( net376 net387 net268 vdd!)  pfet  L=9.52E-6 W=5.14E-6
T84 (vdd! net80 net80 0) pfet L=5.93E-6 W=9.16E-6
T85 (net263 net180 net180 0) nfet L=3.42E-6 W=2.94E-6
T86 (net219 net264 net264 0) pfet L=8.18E-6 W=8.86E-6
T87 ( net233 net233 0 0)  nfet  L=2.95E-6 W=0.71E-6
T88 ( net228 net233 0 0)  nfet  L=2.95E-6 W=0.71E-6
R89 ( net228 net67)  R=5.5E6
T90 (net239 net56 net56 0) nfet L=5.72E-6 W=5.25E-6
C91 (net19 net55) C=9.6E-14
T92 (net304 net22 net22 0) pfet L=6.71E-6 W=4.40E-6
R93 ( net239 net362)  R=5.8E4
T94 ( net362 net281 vdd! vdd!)  pfet  L=8.16E-6 W=5.02E-6
T95 ( net46 net281 vdd! vdd!)  pfet  L=8.16E-6 W=5.02E-6
T96 ( net356 net362 net46 vdd!)  pfet  L=8.16E-6 W=5.02E-6
T97 (net291 net350 net350 0) nfet L=0.71E-6 W=4.14E-6
T98 (net321 net17 net17 0) nfet L=7.55E-6 W=9.21E-6
T99 (net316 net193 net193 0) nfet L=5.91E-6 W=3.00E-6
T100 (0 net122 net122 0) nfet L=8.59E-6 W=6.86E-6
T101 (net279 net117 net117 0) pfet L=6.87E-6 W=6.05E-6
T102 (net256 vdd! vdd! 0) pfet L=8.53E-6 W=0.10E-6
R103 ( net237 net299)  R=7.3E3
T104 ( net299 net299 vdd! vdd!)  pfet  L=7.99E-6 W=6.25E-6
T105 ( net101 net299 vdd! vdd!)  pfet  L=7.99E-6 W=6.25E-6
C106 (net225 net319) C=7.7E-8
C107 (net283 net126) C=6.1E-13
T108 (net143 net360 net360 0) nfet L=9.04E-6 W=7.26E-6
R109 ( net178 net262)  R=9.8E6
T110 ( net262 net378 vdd! vdd!)  pfet  L=2.67E-6 W=9.22E-6
T111 ( net309 net378 vdd! vdd!)  pfet  L=2.67E-6 W=9.22E-6
T112 ( net111 net262 net309 vdd!)  pfet  L=2.67E-6 W=9.22E-6
T113 (net170 net242 net242 0) pfet L=6.73E-6 W=1.66E-6
R114 ( net256 net328)  R=7.9E6
T115 ( net328 net327 0 0)  nfet  L=8.07E-6 W=0.57E-6
T116 ( net48 net327 0 0)  nfet  L=8.07E-6 W=0.57E-6
T117 ( vdd! net328 net327 0)  nfet  L=8.07E-6 W=0.57E-6
C118 (net360 net216) C=7.1E-14
T119 (net58 net100 net100 0) pfet L=2.69E-6 W=9.03E-6
T120 ( net190 net190 0 0)  nfet  L=0.36E-6 W=0.13E-6
T121 ( net5 net190 0 0)  nfet  L=0.36E-6 W=0.13E-6
R122 ( net5 net190)  R=2.4E4
R123 (net109 net165) R=8.5E3
T124 (net219 vdd! vdd! 0) nfet L=9.73E-6 W=2.16E-6
R125 ( net105 net339)  R=8.6E1
T126 ( net339 net339 net372 0)  nfet  L=3.72E-6 W=4.24E-6
T127 ( net372 net16 0 0)  nfet  L=3.72E-6 W=4.24E-6
T128 ( net16 net16 0 0)  nfet  L=3.72E-6 W=4.24E-6
T129 ( net100 net339 net16 0)  nfet  L=3.72E-6 W=4.24E-6
C130 (net334 net222) C=6.8E-8
R131 ( net179 net169)  R=4.0E2
T132 ( net169 net169 net41 vdd!)  pfet  L=2.97E-6 W=0.53E-6
T133 ( net41 net366 vdd! vdd!)  pfet  L=2.97E-6 W=0.53E-6
T134 ( net366 net366 vdd! vdd!)  pfet  L=2.97E-6 W=0.53E-6
T135 ( net356 net169 net366 vdd!)  pfet  L=2.97E-6 W=0.53E-6
T136 (net364 net356 net356 0) nfet L=5.56E-6 W=9.92E-6
R137 ( 0 net120)  R=3.9E1
T138 ( net120 net120 net386 vdd!)  pfet  L=0.13E-6 W=3.62E-6
T139 ( net386 net53 vdd! vdd!)  pfet  L=0.13E-6 W=3.62E-6
T140 ( net53 net53 vdd! vdd!)  pfet  L=0.13E-6 W=3.62E-6
T141 ( net316 net120 net53 vdd!)  pfet  L=0.13E-6 W=3.62E-6
R142 (net225 net285) R=9.9E5
T143 ( net354 net354 vdd! vdd!)  pfet  L=9.72E-6 W=2.93E-6
T144 ( net22 net354 vdd! vdd!)  pfet  L=9.72E-6 W=2.93E-6
R145 ( net22 net290)  R=1.7E4
T146 (net150 net171 net171 0) nfet L=7.26E-6 W=0.47E-6
T147 (net317 net196 net196 0) pfet L=4.36E-6 W=9.64E-6
C148 (net7 net254) C=3.6E-5
T149 (net80 net289 net289 0) nfet L=7.01E-6 W=5.94E-6
R150 ( net168 net276)  R=8.1E2
T151 ( net276 net9 vdd! vdd!)  pfet  L=7.23E-6 W=7.17E-6
T152 ( net101 net9 vdd! vdd!)  pfet  L=7.23E-6 W=7.17E-6
T153 ( 0 net276 net9 vdd!)  pfet  L=7.23E-6 W=7.17E-6
C154 (net15 net178) C=3.3E-10
R155 ( net243 net115)  R=0.3E0
T156 ( net115 net221 vdd! vdd!)  pfet  L=0.75E-6 W=1.79E-6
T157 ( net96 net221 vdd! vdd!)  pfet  L=0.75E-6 W=1.79E-6
T158 ( 0 net115 net221 vdd!)  pfet  L=0.75E-6 W=1.79E-6
R159 (net218 net83) R=6.2E3
R160 (net323 net32) R=2.6E0
R161 ( net97 net35)  R=3.2E5
T162 ( net35 net35 net39 vdd!)  pfet  L=3.72E-6 W=1.67E-6
T163 ( net39 net43 vdd! vdd!)  pfet  L=3.72E-6 W=1.67E-6
T164 ( net43 net43 vdd! vdd!)  pfet  L=3.72E-6 W=1.67E-6
T165 ( net334 net35 net43 vdd!)  pfet  L=3.72E-6 W=1.67E-6
T166 (net66 net14 net14 0) nfet L=3.63E-6 W=2.36E-6
R167 ( net49 net130)  R=8.3E5
T168 ( net130 net130 net306 0)  nfet  L=3.86E-6 W=7.27E-6
T169 ( net306 net373 0 0)  nfet  L=3.86E-6 W=7.27E-6
T170 ( net373 net373 0 0)  nfet  L=3.86E-6 W=7.27E-6
T171 ( net152 net130 net373 0)  nfet  L=3.86E-6 W=7.27E-6
T172 (net273 net124 net124 0) nfet L=3.97E-6 W=3.72E-6
T173 ( net231 net231 vdd! vdd!)  pfet  L=2.81E-6 W=2.56E-6
T174 ( net60 net231 vdd! vdd!)  pfet  L=2.81E-6 W=2.56E-6
R175 ( net60 net379)  R=3.8E4
R176 (net274 net348) R=4.7E3
R177 ( net329 net259)  R=8.0E2
T178 ( net259 net259 0 0)  nfet  L=9.47E-6 W=2.30E-6
T179 ( net219 net259 0 0)  nfet  L=9.47E-6 W=2.30E-6
R180 (vdd! net280) R=5.4E2
T181 (net336 net73 net73 0) pfet L=5.90E-6 W=1.03E-6
R182 ( net290 net154)  R=9.5E0
T183 ( net154 net154 net17 vdd!)  pfet  L=5.13E-6 W=3.66E-6
T184 ( net17 net345 vdd! vdd!)  pfet  L=5.13E-6 W=3.66E-6
T185 ( net345 net345 vdd! vdd!)  pfet  L=5.13E-6 W=3.66E-6
T186 ( net160 net154 net345 vdd!)  pfet  L=5.13E-6 W=3.66E-6
T187 (net13 net315 net315 0) pfet L=8.28E-6 W=8.89E-6
R188 ( net70 net176)  R=6.5E5
T189 ( net176 net11 vdd! vdd!)  pfet  L=1.83E-6 W=9.45E-6
T190 ( net13 net11 vdd! vdd!)  pfet  L=1.83E-6 W=9.45E-6
T191 ( 0 net176 net11 vdd!)  pfet  L=1.83E-6 W=9.45E-6
C192 (net172 net72) C=8.5E-9
T193 (net251 net313 net313 0) nfet L=7.25E-6 W=8.25E-6
R194 ( net354 net138)  R=5.0E0
T195 ( net138 net138 net301 0)  nfet  L=3.29E-6 W=6.74E-6
T196 ( net301 net179 0 0)  nfet  L=3.29E-6 W=6.74E-6
T197 ( net179 net179 0 0)  nfet  L=3.29E-6 W=6.74E-6
T198 ( net184 net138 net179 0)  nfet  L=3.29E-6 W=6.74E-6
T199 (net374 vdd! vdd! 0) nfet L=7.89E-6 W=2.83E-6
R200 ( net172 net196)  R=9.6E0
T201 ( net196 net196 vdd! vdd!)  pfet  L=3.56E-6 W=5.81E-6
T202 ( net307 net196 vdd! vdd!)  pfet  L=3.56E-6 W=5.81E-6
R203 (net75 net1) R=3.3E5
R204 ( net286 net111)  R=7.5E0
T205 ( net111 net111 net76 vdd!)  pfet  L=2.32E-6 W=0.86E-6
T206 ( net76 net171 vdd! vdd!)  pfet  L=2.32E-6 W=0.86E-6
T207 ( net171 net171 vdd! vdd!)  pfet  L=2.32E-6 W=0.86E-6
T208 ( net58 net111 net171 vdd!)  pfet  L=2.32E-6 W=0.86E-6
C209 (net135 net261) C=1.9E-13
C210 (net265 net13) C=4.4E-8
R211 ( net311 net295)  R=6.5E4
T212 ( net295 net295 vdd! vdd!)  pfet  L=3.38E-6 W=1.22E-6
T213 ( net374 net295 vdd! vdd!)  pfet  L=3.38E-6 W=1.22E-6
R214 (0 net204) R=1.7E4
C215 (net173 net177) C=7.9E-14
C216 (net124 vdd!) C=1.3E-6
C217 (vdd! net367) C=3.0E-5
T218 (net50 net240 net240 0) pfet L=6.41E-6 W=1.53E-6
C219 (net313 net166) C=8.5E-6
T220 (net122 net210 net210 0) nfet L=1.57E-6 W=7.31E-6
C221 (net13 net104) C=4.2E-6
R222 (net113 net265) R=6.1E4
T223 ( vdd! vdd! 0 0)  nfet  L=2.67E-6 W=8.41E-6
T224 ( net363 vdd! 0 0)  nfet  L=2.67E-6 W=8.41E-6
R225 ( net363 net249)  R=3.0E0
T226 (net135 net109 net109 0) nfet L=1.18E-6 W=2.01E-6
R227 ( net139 net160)  R=0.1E5
T228 ( net160 net160 0 0)  nfet  L=5.71E-6 W=6.99E-6
T229 ( net297 net160 0 0)  nfet  L=5.71E-6 W=6.99E-6
T230 (net267 net121 net121 0) nfet L=1.79E-6 W=1.58E-6
R231 ( net49 net69)  R=4.3E1
T232 ( net69 net69 vdd! vdd!)  pfet  L=9.11E-6 W=8.21E-6
T233 ( net36 net69 vdd! vdd!)  pfet  L=9.11E-6 W=8.21E-6
C234 (net348 0) C=5.9E-11
T235 (net256 net310 net310 0) pfet L=3.48E-6 W=8.13E-6
R236 ( net338 net266)  R=8.3E0
T237 ( net266 net376 vdd! vdd!)  pfet  L=9.99E-6 W=7.98E-6
T238 ( net358 net376 vdd! vdd!)  pfet  L=9.99E-6 W=7.98E-6
T239 ( net142 net266 net358 vdd!)  pfet  L=9.99E-6 W=7.98E-6
T240 (net150 net119 net119 0) pfet L=3.73E-6 W=4.09E-6
R241 ( net95 net334)  R=2.3E1
T242 ( net334 net233 vdd! vdd!)  pfet  L=3.34E-6 W=8.54E-6
T243 ( net58 net233 vdd! vdd!)  pfet  L=3.34E-6 W=8.54E-6
T244 ( net247 net334 net58 vdd!)  pfet  L=3.34E-6 W=8.54E-6
T245 (net189 net380 net380 0) nfet L=4.54E-6 W=6.46E-6
R246 ( net305 net28)  R=4.4E4
T247 ( net28 net122 vdd! vdd!)  pfet  L=7.31E-6 W=5.31E-6
T248 ( net350 net122 vdd! vdd!)  pfet  L=7.31E-6 W=5.31E-6
T249 ( 0 net28 net122 vdd!)  pfet  L=7.31E-6 W=5.31E-6
T250 (net192 net349 net349 0) nfet L=1.44E-6 W=4.58E-6
R251 ( net54 net114)  R=2.8E3
T252 ( net114 net114 0 0)  nfet  L=1.94E-6 W=7.43E-6
T253 ( net186 net114 0 0)  nfet  L=1.94E-6 W=7.43E-6
T254 (net213 net151 net151 0) nfet L=0.55E-6 W=3.47E-6
R255 ( net253 net185)  R=9.7E4
T256 ( net185 net185 net296 0)  nfet  L=3.13E-6 W=4.20E-6
T257 ( net296 net112 0 0)  nfet  L=3.13E-6 W=4.20E-6
T258 ( net112 net112 0 0)  nfet  L=3.13E-6 W=4.20E-6
T259 ( net274 net185 net112 0)  nfet  L=3.13E-6 W=4.20E-6
C260 (net264 net182) C=4.1E-8
R261 ( net52 net89)  R=8.9E2
T262 ( net89 net89 net116 0)  nfet  L=8.38E-6 W=6.78E-6
T263 ( net116 net25 0 0)  nfet  L=8.38E-6 W=6.78E-6
T264 ( net25 net25 0 0)  nfet  L=8.38E-6 W=6.78E-6
T265 ( net134 net89 net25 0)  nfet  L=8.38E-6 W=6.78E-6
T266 (net108 net229 net229 0) nfet L=8.81E-6 W=7.30E-6
C267 (net238 vdd!) C=7.6E-12
C268 (0 net307) C=1.8E-12
R269 ( net349 net15)  R=3.5E2
T270 ( net15 net13 vdd! vdd!)  pfet  L=5.97E-6 W=3.49E-6
T271 ( net326 net13 vdd! vdd!)  pfet  L=5.97E-6 W=3.49E-6
T272 ( net336 net15 net326 vdd!)  pfet  L=5.97E-6 W=3.49E-6
R273 (net348 net226) R=4.0E0
R274 ( vdd! net36)  R=0.6E3
T275 ( net36 net242 vdd! vdd!)  pfet  L=0.19E-6 W=1.54E-6
T276 ( net369 net242 vdd! vdd!)  pfet  L=0.19E-6 W=1.54E-6
T277 ( net34 net36 net369 vdd!)  pfet  L=0.19E-6 W=1.54E-6
T278 (net19 net150 net150 0) nfet L=8.23E-6 W=3.83E-6
T279 (net226 net377 net377 0) nfet L=2.55E-6 W=3.91E-6
T280 (net45 net181 net181 0) pfet L=1.98E-6 W=2.92E-6
C281 (net234 net7) C=9.2E-5
T282 (net223 net314 net314 0) nfet L=9.49E-6 W=8.43E-6
R283 ( net280 net78)  R=1.1E0
T284 ( net78 net78 net254 0)  nfet  L=1.44E-6 W=5.17E-6
T285 ( net254 net163 0 0)  nfet  L=1.44E-6 W=5.17E-6
T286 ( net163 net163 0 0)  nfet  L=1.44E-6 W=5.17E-6
T287 ( net223 net78 net163 0)  nfet  L=1.44E-6 W=5.17E-6
T288 (net380 net227 net227 0) pfet L=1.87E-6 W=6.77E-6
R289 ( net104 net350)  R=8.6E2
T290 ( net350 net356 vdd! vdd!)  pfet  L=3.36E-6 W=4.78E-6
T291 ( 0 net356 vdd! vdd!)  pfet  L=3.36E-6 W=4.78E-6
T292 ( 0 net350 net356 vdd!)  pfet  L=3.36E-6 W=4.78E-6
C293 (net337 net286) C=4.4E-7
R294 (vdd! net83) R=8.7E5
C295 (net374 net84) C=4.0E-10
T296 (net304 net364 net364 0) nfet L=4.53E-6 W=9.50E-6
T297 (net72 net337 net337 0) pfet L=6.78E-6 W=2.12E-6
T298 (net106 net256 net256 0) pfet L=0.61E-6 W=4.11E-6
C299 (net80 net101) C=4.6E-14
T300 (net99 net241 net241 0) nfet L=7.26E-6 W=1.35E-6
R301 (net47 net234) R=9.4E6
T302 (net385 net106 net106 0) pfet L=7.08E-6 W=4.06E-6
R303 (net109 net79) R=9.7E3
T304 (net90 net142 net142 0) pfet L=0.79E-6 W=3.25E-6
T305 (net166 net95 net95 0) pfet L=4.28E-6 W=1.14E-6
T306 (net80 net164 net164 0) pfet L=0.61E-6 W=5.79E-6
R307 (net134 net159) R=0.9E6
T308 (net174 net243 net243 0) pfet L=7.43E-6 W=8.58E-6
R309 (net146 net284) R=5.8E3
R310 (net360 net235) R=5.8E1
R311 (net164 net347) R=9.4E3
C312 (net245 net165) C=6.5E-12
R313 (net271 net353) R=9.9E2
T314 (net162 net199 net199 0) pfet L=5.36E-6 W=9.26E-6
C315 (net141 net81) C=7.4E-8
C316 (net123 net226) C=8.4E-10
T317 (net95 0 0 0) nfet L=9.17E-6 W=4.14E-6
T318 (net82 net292 net292 0) pfet L=5.46E-6 W=4.92E-6

