T1 (net144 net135 net135 0) pfet L=3.86E-6 W=5.42E-6
R2 ( net240 net99)  R=2.0E6
T3 ( net99 net99 vdd! vdd!)  pfet  L=3.43E-6 W=8.25E-6
T4 ( net111 net99 vdd! vdd!)  pfet  L=3.43E-6 W=8.25E-6
T5 (net247 net62 net62 0) nfet L=1.20E-6 W=6.38E-6
R6 (net153 net22) R=0.9E5
C7 (net193 0) C=1.3E-12
R8 ( net237 net88)  R=1.5E4
T9 ( net88 net136 vdd! vdd!)  pfet  L=5.71E-6 W=0.11E-6
T10 ( net10 net136 vdd! vdd!)  pfet  L=5.71E-6 W=0.11E-6
T11 ( net15 net88 net10 vdd!)  pfet  L=5.71E-6 W=0.11E-6
T12 (net61 net153 net153 0) pfet L=4.62E-6 W=5.60E-6
R13 ( net138 net82)  R=7.6E1
T14 ( net82 net82 net57 0)  nfet  L=4.86E-6 W=5.30E-6
T15 ( net57 net75 0 0)  nfet  L=4.86E-6 W=5.30E-6
T16 ( net75 net75 0 0)  nfet  L=4.86E-6 W=5.30E-6
T17 ( net39 net82 net75 0)  nfet  L=4.86E-6 W=5.30E-6
R18 (net131 net127) R=0.8E5
T19 (0 net163 net163 0) pfet L=4.00E-6 W=9.94E-6
T20 ( net196 net196 vdd! vdd!)  pfet  L=4.87E-6 W=5.40E-6
T21 ( net223 net196 vdd! vdd!)  pfet  L=4.87E-6 W=5.40E-6
R22 ( net223 net22)  R=9.7E3
T23 (vdd! net49 net49 0) pfet L=9.36E-6 W=3.75E-6
T24 (net256 net76 net76 0) pfet L=2.53E-6 W=2.37E-6
C25 (net94 net187) C=8.6E-13
T26 (net54 net77 net77 0) nfet L=9.99E-6 W=6.08E-6
R27 (net153 net70) R=0.3E3
R28 ( net21 net135)  R=1.6E3
T29 ( net135 net220 vdd! vdd!)  pfet  L=9.38E-6 W=0.68E-6
T30 ( net121 net220 vdd! vdd!)  pfet  L=9.38E-6 W=0.68E-6
T31 ( 0 net135 net220 vdd!)  pfet  L=9.38E-6 W=0.68E-6
T32 (net45 net175 net175 0) pfet L=2.63E-6 W=0.89E-6
C33 (net118 net115) C=8.8E-8
C34 (net85 net63) C=9.2E-8
R35 ( net162 net221)  R=4.6E2
T36 ( net221 net221 0 0)  nfet  L=2.94E-6 W=7.81E-6
T37 ( net165 net221 0 0)  nfet  L=2.94E-6 W=7.81E-6
T38 (vdd! net26 net26 0) nfet L=1.93E-6 W=6.78E-6
R39 ( net43 net90)  R=8.0E3
T40 ( net90 net98 vdd! vdd!)  pfet  L=7.50E-6 W=4.71E-6
T41 ( net225 net98 vdd! vdd!)  pfet  L=7.50E-6 W=4.71E-6
T42 ( net155 net90 net225 vdd!)  pfet  L=7.50E-6 W=4.71E-6
R43 (net181 net247) R=8.1E6
R44 ( net169 net197)  R=7.8E4
T45 ( net197 net197 0 0)  nfet  L=5.96E-6 W=7.23E-6
T46 ( net238 net197 0 0)  nfet  L=5.96E-6 W=7.23E-6
T47 (net234 net230 net230 0) nfet L=7.56E-6 W=2.61E-6
R48 ( net176 net61)  R=7.7E0
T49 ( net61 net30 0 0)  nfet  L=9.21E-6 W=4.14E-6
T50 ( vdd! net30 0 0)  nfet  L=9.21E-6 W=4.14E-6
T51 ( vdd! net61 net30 0)  nfet  L=9.21E-6 W=4.14E-6
R52 (net213 net247) R=5.5E1
C53 (net56 net246) C=9.0E-14
T54 (net179 net9 net9 0) nfet L=6.25E-6 W=2.31E-6
T55 (net199 net160 net160 0) nfet L=9.44E-6 W=4.49E-6
T56 (net150 net100 net100 0) pfet L=1.65E-6 W=5.54E-6
R57 ( net201 net104)  R=3.1E6
T58 ( net104 net40 vdd! vdd!)  pfet  L=1.40E-6 W=6.17E-6
T59 ( net177 net40 vdd! vdd!)  pfet  L=1.40E-6 W=6.17E-6
T60 ( net186 net104 net177 vdd!)  pfet  L=1.40E-6 W=6.17E-6
T61 (net1 net149 net149 0) pfet L=4.33E-6 W=0.54E-6
R62 ( net149 net155)  R=6.2E6
T63 ( net155 net78 0 0)  nfet  L=2.40E-6 W=5.05E-6
T64 ( net1 net78 0 0)  nfet  L=2.40E-6 W=5.05E-6
T65 ( vdd! net155 net78 0)  nfet  L=2.40E-6 W=5.05E-6
R66 (net95 net140) R=1.3E0
T67 (net54 0 0 0) nfet L=5.70E-6 W=4.99E-6
R68 ( net83 net48)  R=0.6E5
T69 ( net48 net48 0 0)  nfet  L=1.75E-6 W=5.06E-6
T70 ( net48 net48 0 0)  nfet  L=1.75E-6 W=5.06E-6
R71 (net65 net178) R=2.0E6
T72 ( net83 net83 vdd! vdd!)  pfet  L=9.05E-6 W=1.43E-6
T73 ( net219 net83 vdd! vdd!)  pfet  L=9.05E-6 W=1.43E-6
R74 ( net219 net41)  R=4.6E1
C75 (net76 net42) C=5.1E-6
T76 ( net9 net9 vdd! vdd!)  pfet  L=6.45E-6 W=2.79E-6
T77 ( net109 net9 vdd! vdd!)  pfet  L=6.45E-6 W=2.79E-6
R78 ( net109 net232)  R=9.8E1
R79 (net34 net137) R=4.9E1
T80 ( 0 0 vdd! vdd!)  pfet  L=9.35E-6 W=5.34E-6
T81 ( net128 0 vdd! vdd!)  pfet  L=9.35E-6 W=5.34E-6
R82 ( net128 net150)  R=4.9E5
C83 (net209 net160) C=7.8E-13
C84 (net117 net72) C=3.2E-12
T85 ( net89 net89 0 0)  nfet  L=1.70E-6 W=2.12E-6
T86 ( net210 net89 0 0)  nfet  L=1.70E-6 W=2.12E-6
R87 ( net210 vdd!)  R=9.2E0
R88 (net125 vdd!) R=2.6E3
R89 ( 0 net203)  R=7.8E1
T90 ( net203 net203 net71 0)  nfet  L=3.74E-6 W=4.53E-6
T91 ( net71 net25 0 0)  nfet  L=3.74E-6 W=4.53E-6
T92 ( net25 net25 0 0)  nfet  L=3.74E-6 W=4.53E-6
T93 ( net100 net203 net25 0)  nfet  L=3.74E-6 W=4.53E-6
C94 (net144 net252) C=8.2E-13
R95 ( net147 net167)  R=1.7E6
T96 ( net167 net167 0 0)  nfet  L=2.65E-6 W=8.52E-6
T97 ( net191 net167 0 0)  nfet  L=2.65E-6 W=8.52E-6
R98 (net255 net235) R=5.9E3
T99 (net222 net13 net13 0) pfet L=9.64E-6 W=5.11E-6
T100 (net81 net188 net188 0) pfet L=9.97E-6 W=7.96E-6
R101 ( 0 net63)  R=3.5E4
T102 ( net63 net63 vdd! vdd!)  pfet  L=8.60E-6 W=6.85E-6
T103 ( net131 net63 vdd! vdd!)  pfet  L=8.60E-6 W=6.85E-6
R104 (net157 net187) R=2.5E2
T105 (net212 net192 net192 0) pfet L=3.11E-6 W=5.41E-6
R106 ( net74 net33)  R=5.9E5
T107 ( net33 net33 vdd! vdd!)  pfet  L=9.50E-6 W=2.63E-6
T108 ( net59 net33 vdd! vdd!)  pfet  L=9.50E-6 W=2.63E-6
T109 (net139 net70 net70 0) nfet L=3.90E-6 W=6.60E-6
R110 ( net171 net126)  R=7.1E2
T111 ( net126 net13 0 0)  nfet  L=4.52E-6 W=8.76E-6
T112 ( net196 net13 0 0)  nfet  L=4.52E-6 W=8.76E-6
T113 ( vdd! net126 net13 0)  nfet  L=4.52E-6 W=8.76E-6
T114 (net153 net44 net44 0) nfet L=8.17E-6 W=4.81E-6
C115 (net46 net68) C=5.6E-11
C116 (net215 net191) C=1.7E-12
R117 ( net50 net94)  R=6.1E2
T118 ( net94 net94 vdd! vdd!)  pfet  L=6.95E-6 W=7.55E-6
T119 ( net1 net94 vdd! vdd!)  pfet  L=6.95E-6 W=7.55E-6
R120 (net138 net11) R=0.5E1
T121 (net232 net96 net96 0) nfet L=3.60E-6 W=8.15E-6
T122 (net8 net235 net235 0) pfet L=5.04E-6 W=4.14E-6
C123 (net182 net226) C=3.6E-8
R124 ( net214 net159)  R=8.8E0
T125 ( net159 net258 vdd! vdd!)  pfet  L=9.59E-6 W=1.38E-6
T126 ( net68 net258 vdd! vdd!)  pfet  L=9.59E-6 W=1.38E-6
T127 ( 0 net159 net258 vdd!)  pfet  L=9.59E-6 W=1.38E-6
R128 (net118 net134) R=4.9E0
R129 (net24 net111) R=2.2E4
R130 ( net154 net180)  R=6.0E2
T131 ( net180 net202 0 0)  nfet  L=7.77E-6 W=1.56E-6
T132 ( net47 net202 0 0)  nfet  L=7.77E-6 W=1.56E-6
T133 ( net121 net180 net47 0)  nfet  L=7.77E-6 W=1.56E-6
R134 (net18 net51) R=2.9E0
R135 ( net83 net233)  R=7.8E5
T136 ( net233 net176 0 0)  nfet  L=7.91E-6 W=7.69E-6
T137 ( net117 net176 0 0)  nfet  L=7.91E-6 W=7.69E-6
T138 ( vdd! net233 net176 0)  nfet  L=7.91E-6 W=7.69E-6
C139 (net165 net39) C=0.4E-6

